US06734301B2
A solution of 11-[(E)-2-nitroethenyl]-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole (236 mg, 0.92 mmol) in THF (9 mL) is cooled to 0° C. and treated with lithium aluminum hydride (1M THF, 2.8 mL, 2.8 mmol) with gas evolution. The reaction is heated to reflux for 4 hrs followed by cooling to rt for 16 hrs. At this time, the reaction mixture is quenched by the successive addition of 0.11 mL water, 0.10 mL 5N NaOH, and 0.37 mL water. The resulting thick gelatinous suspension is diluted with dichloromethane (30 mL), filtered through celite, and concentrated to give a crude oil. This material is purified by LC (230-400 silica gel) eluting with 20:2.5:77.5 methanol/ammonuim hydroxide/dichloromethane to afford 92 mg of 2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine as a yellow syrup. IR (liq.) 3353, 3307, 3087, 3048, 3025, 2935, 2844, 1469, 1426, 1373, 1340, 1324, 1181, 1015, 742 cm−1; MS (FAB) m/z 230 (MH+).

reactant | 11-[(E)-2-nitroethenyl]-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole | 0.92 mmol, 236 mg | [N+](=O)([O-])/C=C/C1=C2N(C=3C=CC=CC13)CCNCC2 | C14H15N3O2
reactant | lithium aluminum hydride | 2.8 mmol, 1M, 2.8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)-1-ethanamine | 92 mg | C1CNCCN2C1=C(C=1C=CC=CC21)CCN | C14H19N3
